US05834493
ii) 5-Bromo-3-(pyridin-3-ylmethyl)-1H-indole
A mixture of 3-pyridin-propionaldehyde (1 g; 0.0074 mol) and of 4-bromophenylhydrazin hydrochloride (1.8 g; 0.0074 mol) with acetic acid (4.44 ml) in absolute ethanol (50 ml) was refluxed for 3 hours. The reaction was then quenched with a saturated solution of aqueous sodium carbonate and the product was extracted with ethyl acetate. The organic extract was dried (MGSO4) and evaporated under vacuum. After purification by Flash Chromatography on silica gel using as eluent methylene chloride/methanol (98/2), the desired compound was obtained.

reactant | 3-pyridin-propionaldehyde | 0.0074 mol, 1 g | N1=CC(=CC=C1)CCC=O | C8H9NO
reactant | 4-bromophenylhydrazin hydrochloride | 0.0074 mol, 1.8 g | Cl.BrC1=CC=C(C=C1)NN
reactant | acetic acid | 4.44 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-Bromo-3-(pyridin-3-ylmethyl)-1H-indole | BrC=1C=C2C(=CNC2=CC1)CC=1C=NC=CC1 | C14H11BrN2
